US07345178B2
2-Chloropyridin-3-amine (3.20 g, 0.025 mol) was suspended in 15 mL of pyridine and added slowly to a suspension of 3-nitrobenzoyl chloride (4.64 g, 0.025 mol) in 15 mL of pyridine in an ice bath. The reaction mixture was slowly warmed to room temperature and stirred overnight. The next day, the reaction mixture was cooled in an ice bath and 30 mL of glacial acetic acid was added slowly. The resulting mixture was diluted with 200 mL of EtOAc and washed with water (3×20 mL). The organic layer was then dried (Na2SO4) and concentrated. The resulting residue was mixed with 10 mL of PPA and stirred at 160 degree for 6 hours. The reaction mixture was then poured carefully into 150 mL of water. The pH was brought to about 5 with solid NaOH and the solids were collected by filtration and dried. This material was mixed with 50 mL of MeOH and filtered. The filtrate was concentrated to afford 2.1 g of 2-(3-nitrophenyl)oxazolo[5,4-b]pyridine (35% yield) (MS, M++H=242).

reactant | 2-Chloropyridin-3-amine | 0.025 mol, 3.20 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | 3-nitrobenzoyl chloride | 0.025 mol, 4.64 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-(3-nitrophenyl)oxazolo[5,4-b]pyridine | 2.1 g, 35% yield | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=NC=CC=C2N1 | C12H7N3O3
